US05262415
(a) 3-Nitro-4-aminopyridine
Five grams (31.5 mmol) of 3-nitro-4-chloropyridine was mixed with 26 g of ammonium acetate, and the mixture was heated at 130-140° C. for 3 hours. The mixture was allowed to cool, and then adjusted to pH 10 with concentrated aqueous ammonia. The precipitated powder was collected by filtration to obtain 2.6 g of the intended yield: 59%).

reactant | 3-nitro-4-chloropyridine | 31.5 mmol, Five grams | [N+](=O)([O-])C=1C=NC=CC1Cl | C5H3ClN2O2
reactant | ammonium acetate | 26 g | C(C)(=O)[O-].[NH4+]
reactant | ammonia | N | H3N
product | 3-Nitro-4-aminopyridine | yield: 59% | [N+](=O)([O-])C=1C=NC=CC1N | C5H5N3O2
